US06251936B1
(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(4-methoxy-phenyl)-methanone
Tin tetrachloride (4.6 mL, 71.76 mmol) was added dropwise over a 10 minute period to a stirred, −78° C. solution of 2-benzyl-4,5-dimethylthiophene (6.6 g, 32.62 mmol), anisoyl chloride (5.90 g, 34.6 mmol) and dichloromethane (120 mL) under a dry nitrogen atmosphere. After 5 hours at −78° C., the reaction mixture was slowly warmed to room temperature over a 2 h period. The reaction mixture was added to water and extracted with ether. The ether extract was washed with sat. aq. sodium bicarbonate and brine. The solvent was removed and the resultant solid was triturated with ether to give the title compound as a off-white solid (9.62 g, 88%): mp 85-86° C.: NMR (CDCl3); δ7.80 (ddd, J=8, 8, 1 Hz, 2H), 7.24-7.10 (m, 5H), 7.92 (ddd, J=8, 8, 1 Hz, 2H), 3.93 (s, 2H), 3.88 (s, 3H), 2.28 (s, 3H), 1.90 (s, 3H); MS (EI): 336 (100%, MI); Anal. Calc. for C21H20O2S: C, 74.97; H, 5.99; N, 0.00. Found: C, 75.11; H, 6.02; N, 0.05.

reactant | Tin tetrachloride | 71.76 mmol, 4.6 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-4,5-dimethylthiophene | 32.62 mmol, 6.6 g | C(C1=CC=CC=C1)C=1SC(=C(C1)C)C | C13H14S
reactant | anisoyl chloride | 34.6 mmol, 5.90 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 9.62 g, 88% | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC=C(C=C1)OC)C)C | C21H20O2S
